US07772221B2
Step AJ (3): 2-(Pent-4-enyl)-5-(trifluoromethyl)benzaldehyde (200 mg, 0.83 mmol) and ammonium acetate (9.6 g, 124 mmol) was dissolved in methanol (35 mL). Sodium cyanoborohydride (311 mg, 4.95 mmol) was added. The reaction mixture was stirred at 65° C. in a high-pressure vessel for 2 h. Aqueous sodium bicarbonate solution was added and the reaction mixture was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum. The residue was purified by reverse phase chromatography to give (2-(pent-4-enyl)-5-(trifluoromethyl)phenyl)methanamine (65 mg, 32%) as a colorless oil. LC-MS (M+H)+=244.21.

reactant | 2-(Pent-4-enyl)-5-(trifluoromethyl)benzaldehyde | 0.83 mmol, 200 mg | C(CCC=C)C1=C(C=O)C=C(C=C1)C(F)(F)F | C13H13F3O
reactant | ammonium acetate | 124 mmol, 9.6 g | C(C)(=O)[O-].[NH4+]
reactant | Sodium cyanoborohydride | 4.95 mmol, 311 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | (2-(pent-4-enyl)-5-(trifluoromethyl)phenyl)methanamine | 65 mg, 32% | C(CCC=C)C1=C(C=C(C=C1)C(F)(F)F)CN | C13H16F3N
